US05977105
c) 3'-Hydroxymethylbiphenyl-4-ol
A solution of lithium aluminium hydride (1 M in ether, 2.5 ml) was added to dry tetrahydrofuran (10 ml) and the solution cooled to 0° C. A solution of 3'-methoxycarbonylbiphenyl-4-ol in (0.57 g) in tetrahydrofuran (10 ml) was then added and the resulting solution stirred at room temperature for 30 minutes. The reaction was then quenched by the addition of water (0.1 ml) followed by aqueous sodium hydroxide (50%, 0.1 ml) and then water (0.5 ml). The mixture was acidified with dilute aqueous hydrochloric acid (2 M) and extracted with ethyl acetate. The organic extract was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give the sub-title compound as a white solid (0.48 g).

reactant | lithium aluminium hydride | 1 M, 2.5 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3'-methoxycarbonylbiphenyl-4-ol | COC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)O | C14H12O3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3'-Hydroxymethylbiphenyl-4-ol | 0.48 g | OCC=1C=C(C=CC1)C1=CC=C(C=C1)O | C13H12O2
